US08633211B2
N-(5-Chloro-2,4-dimethoxy-phenyl)-2-{3-[2-(4-methyl-piperazin-1-yl)-2-oxo-ethyl]-2,4-dioxo-3,4-dihydro-2H-quinazolin-1-yl}-acetamide
To a solution of {1-[(5-Chloro-2,4-dimethoxy-phenylcarbamoyl)-methyl]-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl}-acetic acid (0.515 g, 1.14 mmol) in NMP (8 ml), triethylamine (0.166 ml, 1.26 mmol) is added followed by HATU (0.452 g, 1.26 mmol). The mixture is stirred at RT for 5 minutes and then treated with 1-methylpiperazine (140.3 μL, 1.26 mmol). After 5 minutes at RT the reaction mixture is partitioned between EtOAc (25 ml) and water (25 ml). The phases are separated and the aqueous phase is washed further with EtOAc (2×20 ml). The organic extracts are combined, washed with saturated NaHCO3 (40 ml), brine (40 ml), dried (MgSO4), filtered and concentrated to give a brown oil. The residue is taken up in MeCN (5 ml) and passed through a 10 g Varian pre packed silica cartridge, eluting with MeCN then EtOAc to remove the impurities. The product is eluted off the column with MeOH. The MeOH fractions are combined and concentrated in vacuo and dried to afford the title compound, [M+H]+ 530.

reactant | {1-[(5-Chloro-2,4-dimethoxy-phenylcarbamoyl)-methyl]-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl}-acetic acid | 1.14 mmol, 0.515 g | ClC=1C(=CC(=C(C1)NC(=O)CN1C(N(C(C2=CC=CC=C12)=O)CC(=O)O)=O)OC)OC | C20H18ClN3O7
reactant | triethylamine | 1.26 mmol, 0.166 ml | C(C)N(CC)CC | C6H15N
reactant | HATU | 1.26 mmol, 0.452 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-methylpiperazine | 1.26 mmol, 140.3 μL | CN1CCNCC1 | C5H12N2
solvent | NMP | 8 ml | CN1CCCC1=O | C5H9NO
solvent | MeCN | 5 ml | CC#N | C2H3N
product | N-(5-Chloro-2,4-dimethoxy-phenyl)-2-{3-[2-(4-methyl-piperazin-1-yl)-2-oxo-ethyl]-2,4-dioxo-3,4-dihydro-2H-quinazolin-1-yl}-acetamide | ClC=1C(=CC(=C(C1)NC(CN1C(N(C(C2=CC=CC=C12)=O)CC(=O)N1CCN(CC1)C)=O)=O)OC)OC | C25H28ClN5O6
